US08426432B2
2,4-Diamino-5-iodopyrimidine (236 mg) was allowed to react with 1,2,3-Trimethoxy-5-(1-methoxyprop-2-ynyl)benzene (473 mg) as per the general procedure to afford 2,4-Diamino-5-(3-methoxy-3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)pyrimidine as an orange powder (310 mg, 90%): Rf=0.31 (9:1, CHCl3:MeOH); mp=184-186° C.; 1H NMR (DMSO-d6) δ 7.91 (s, 1H), 6.82 (s, 2H), 6.40 (s, 2H), 5.30 (s, 1H), 3.79 (s, 6H), 3.66 (s, 3H), 3.35 (s, 3H); 13C NMR (DMSO-d6) δ 163.8, 162.3, 159.7, 152.8, 137.2, 134.8, 104.6, 92.6, 89.1, 81.9, 73.0, 60.0, 55.9, 55.4; Anal. (C17H20N4O4) C, H, N.

reactant | 2,4-Diamino-5-iodopyrimidine | 236 mg | NC1=NC=C(C(=N1)N)I | C4H5IN4
reactant | 1,2,3-Trimethoxy-5-(1-methoxyprop-2-ynyl)benzene | 473 mg | COC1=C(C(=CC(=C1)C(C#C)OC)OC)OC | C13H16O4
product | 2,4-Diamino-5-(3-methoxy-3-(3,4,5-trimethoxyphenyl)prop-1-ynyl)pyrimidine | 310 mg, 90% | NC1=NC=C(C(=N1)N)C#CC(C1=CC(=C(C(=C1)OC)OC)OC)OC | C17H20N4O4
